US08431573B2
2-(4-Chlorobenzyl)-4-(cyclobutylamino)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.34 mmol) of 2-(4-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 244 mg (3.43 mmol) of cyclobutylamine to give 15 mg (14% of theory) of the title compound.

reactant | 2-(4-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.34 mmol, 100 mg | ClC1=CC=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=C1 | C13H10ClN3OS
reactant | cyclobutylamine | 3.43 mmol, 244 mg | C1(CCC1)N | C4H9N
product | 2-(4-Chlorobenzyl)-4-(cyclobutylamino)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | ClC1=CC=C(CC=2NC(C(=C(N2)NC2CCC2)C#N)=O)C=C1 | C16H15ClN4O
